US08008303B2
5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid ethyl ester
A mixture of 5′-amino-2′methoxy-biphenyl-4-carboxylic acid ethyl ester hydrochloride (100 mg), N-methylmorpholine (0.1 ml) and cyclopropanecarbonyl chloride (29 mg) in dry THF (3 ml) was stirred at 20 C for 18 h. The mixture was then evaporated and the residue partitioned between sodium bicarbonate solution and ethyl acetate. The dried extracts were then evaporated giving the title compound as a dark oil (88 mg)

reactant | 5′-amino-2′methoxy-biphenyl-4-carboxylic acid ethyl ester hydrochloride | 100 mg | Cl.C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)OC
reactant | N-methylmorpholine | 0.1 ml | CN1CCOCC1 | C5H11NO
reactant | cyclopropanecarbonyl chloride | 29 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid ethyl ester | 88 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CC1)OC | C20H21NO4
